US07232929B2
Synthesis of N-methoxy-2,2,3,3,-tetramethylcyclopropane carboxamide (N-methoxy TMCD) (compound V)
Tetramethylcyclopropanecarbonyl chloride (TMC-Cl) (4 g; 25 mmol) dissolved in 20 ml of dry dichloromethane was slowly added to a stirred and dry dichloromethane solution of methoxylamine hydrochloride (2.5 g; 30 mmol) and triethylamine (6.3 g; 50 mmol). After the addition, the reaction mixture was stirred for 2 hr at room temperature. Dichloromethane was evaporated under vacuum, 10 ml of water was added and the products were extracted using 30 ml of ethyl acetate. The organic fraction was dried over MgSO4, filtered and evaporated under vacuum. The product was crystallized using 20 ml ethyl acetate and 30 ml petroleum ether to afford 3 g (75% yield) and its chemical structure was identified by elemental analysis and spectroscopic methods.

reactant | Tetramethylcyclopropanecarbonyl chloride | 25 mmol, 4 g | CC1(C(C1C(=O)Cl)(C)C)C | C8H13ClO
reactant | methoxylamine hydrochloride | 30 mmol, 2.5 g | Cl.O(C)N
reactant | triethylamine | 50 mmol, 6.3 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-methoxy-2,2,3,3,-tetramethylcyclopropane carboxamide | 75% yield | CONC(=O)C1C(C1(C)C)(C)C | C9H17NO2
